US06140333
4-Aminomethyl-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}-4-methylpiperidine
To a solution of 16 mg of 4-benzyloxycarbonylaminomethyl-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}-4-methylpiperidine in 2 ml of methanol, 4 mg of 10% palladium-carbon catalyst was added, followed by stirring,for 4 hours under a hydrogen atmosphere. After filtering the catalyst off, the solvent was distilled off under reduced pressure, and the resulting residue was dissolved in 1M hydrochloric acid and washed with diethyl ether. After basifying with 3N sodium hydroxide, the aqueous layer was extracted with chloroform. The organic layer was then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 3.5 mg of the title compound as a colorless oily substance.

reactant | 4-benzyloxycarbonylaminomethyl-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}-4-methylpiperidine | 16 mg | C(C1=CC=CC=C1)OC(=O)NCC1(CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O)C | C28H34F2N2O4
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium-carbon | 4 mg | [C].[Pd]
product | 4-Aminomethyl-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}-4-methylpiperidine | 3.5 mg | NCC1(CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O)C | C20H28F2N2O2
